US06891066B2
3,4-Difluoro-2-[2-fluoro-4-(3-iodopropyl)anilino]-N-[2-(vinyloxy)ethoxy]benzamide (200 mg, 0.39 mmol) was dissolved in DMA (10 mL), to which was added dimethylamine (0.15 mL of a 40% solution in water). This mixture was stirred at RT for 15 hours, then the DMA removed under reduced pressure, affording a yellow oil. This oil was then dissolved in EtOH (6 mL), to which was added 1 M HCl solution (4 mL). The resulting mixture was stirred at RT for 15 h. The reaction mixture was then diluted with water (50 mL) and this aqueous solution basicified with solid K2CO3 and saturated with solid NaCl. The resulting solution was extracted with EtOAc (3×50 mL), the combined organic extract dried (Na2SO4) and the solvent removed under reduced pressure to afford an oil. This oil was purified by column chromatography on silica gel (1% NH4OH in 25% MeOH/CH2Cl2 as eluant) to give 2-{4-[3-(dimethylamino)propyl]-2-fluoroanilino}-3,4-difluoro-N-(2-hydroxyethoxy)benzamide as a cream foam (55 mg, 36%). 1H NMR [400 MHz, (CD3)2SO] δ 11.70 (v br s, 1 H), 8.82 (br s, 1 H), 7.44-7.38 (m, 1 H), 7.14-7.06 (m, 1 H), 7.05 (dd, J=12.5, 1.6 Hz, 1 H), 6.89 (dd, J=8.2, 1.6 Hz, 1 H), 6.82 (ddd, J=8.7, 8.7, 4.5 Hz, 1 H), 4.53 (br s, 1 H), 3.85 (t, J=4.9 Hz, 2 H), 3.57 (t, J=4.9 Hz, 2 H), 2.53 (t, J=7.5 Hz, 2 H), 2.24 (t, J=7.1 Hz, 2 H), 2.16 (s, 6 H), 1.67 (q, J=7.5 Hz, 2 H). Anal. calcd. for C20H24F3N3O3.0.75H2O: C, 56.5; H, 6.1; N, 9.9. Found C, 56.4; H, 6.4; N, 9.1.

reactant | 3,4-Difluoro-2-[2-fluoro-4-(3-iodopropyl)anilino]-N-[2-(vinyloxy)ethoxy]benzamide | 0.39 mmol, 200 mg | FC=1C(=C(C(=O)NOCCOC=C)C=CC1F)NC1=C(C=C(C=C1)CCCI)F | C20H20F3IN2O3
reactant | dimethylamine | CNC | C2H7N
reactant | HCl | 1 M, 4 mL | Cl | ClH
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | NaCl | [Na+].[Cl-]
solvent | DMA | 10 mL | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
solvent | EtOH | 6 mL | CCO | C2H6O
solvent | water | 50 mL | O | H2O
product | 2-{4-[3-(dimethylamino)propyl]-2-fluoroanilino}-3,4-difluoro-N-(2-hydroxyethoxy)benzamide | 55 mg, 36% | CN(CCCC1=CC(=C(NC2=C(C(=O)NOCCO)C=CC(=C2F)F)C=C1)F)C | C20H24F3N3O3
